US07192950B2
N-Benzo[1,3]dioxol-5-ylmethyl-2-[1-(3,4-dimethoxy-benzyl)-7,8-dimethoxy-1,3,4,5-tetrahydro-benzo[c]azepin-2-yl]-2-phenyl-acetamide
prepared by reaction of [1-(3,4-dimethoxy-benzyl)-7,8-dimethoxy-1,3,4,5-tetrahydro-benzo[c]azepin-2-yl]-phenyl-acetic acid with piperonylamine.

reactant | [1-(3,4-dimethoxy-benzyl)-7,8-dimethoxy-1,3,4,5-tetrahydro-benzo[c]azepin-2-yl]-phenyl-acetic acid | COC=1C=C(CC2N(CCCC3=C2C=C(C(=C3)OC)OC)C(C(=O)O)C3=CC=CC=C3)C=CC1OC | C29H33NO6
reactant | piperonylamine | C(C1=CC=2OCOC2C=C1)N | C8H9NO2
product | N-Benzo[1,3]dioxol-5-ylmethyl-2-[1-(3,4-dimethoxy-benzyl)-7,8-dimethoxy-1,3,4,5-tetrahydro-benzo[c]azepin-2-yl]-2-phenyl-acetamide | O1COC2=C1C=CC(=C2)CNC(C(C2=CC=CC=C2)N2C(C1=C(CCC2)C=C(C(=C1)OC)OC)CC1=CC(=C(C=C1)OC)OC)=O | C37H40N2O7
